US04140778
PREPARATION OF N-(2,3,5,6-TETRACHLORO-4-PYRIDYL)-N-(4-NITRO-2-TRIFLUOROMETHYLPHENYL)-N-METHYLAMINE
N-(2,3,5,6-Tetrachloro-4-pyridyl)-N-(4-nitro-2-trifluoromethylphenyl)amine (2.0 grams; 0.005 mole), 30 ml. of acetone, 6.0 grams of sodium carbonate and 6 ml. of dimethyl sulfate were mixed and refluxed. After 2 hours, TLC showed no evidence of product. After 8 hours, TLC showed evidence of some product formation. After about sixteen hours, the reaction mixture was quenched by adding water, heating for one hour, and then allowing to cool. Product precipitated and was separated by filtration. It was purified by passing it through a silica gel column with toluene as eluent. Yield was 0.31 gram, m.p. 152°-155° C. Elemental analysis showed

reactant | N-(2,3,5,6-Tetrachloro-4-pyridyl)-N-(4-nitro-2-trifluoromethylphenyl)amine | 0.005 mole, 2.0 grams | ClC1=NC(=C(C(=C1Cl)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)Cl)Cl | C12H4Cl4F3N3O2
reactant | sodium carbonate | 6.0 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | CC(=O)C | C3H6O
product | N-(2,3,5,6-TETRACHLORO-4-PYRIDYL)-N-(4-NITRO-2-TRIFLUOROMETHYLPHENYL)-N-METHYLAMINE | ClC1=NC(=C(C(=C1Cl)N(C)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)Cl)Cl | C13H6Cl4F3N3O2
